US04438143
1-[2-Cyano-4-(2-ethylhexanoyl)-amino-phenoxy]-3-isopropylamino-2-propanol hydrochloride
Fifteen grams (0.043 mol) of 1-[2-cyano-4-(2-ethylhexanoyl)-amino-phenoxy]-3-chloro-2-propanol were dissolved in 80 ml of ethanol, 14.4 ml (0.17 mol) of isopropylamine were added, and the mixture was refluxed for two hours. The solvent was then distilled off, and the residue was purified on a silica gel column [mixture of eluants: ethyl acetate/isopropanol/NH4OH (14:6:1)]. The pure base obtained was recrystallized from ethyl acetate with the addition of petroleum ether. The crystals were dissolved in acetonitrile and acidified with alcoholic hydrochloric acid, and crystallization was initiated by the addition of ether. The crystals were pure white. Yield: 2.9 gm. M.p: 169°-170° C.

reactant | 1-[2-cyano-4-(2-ethylhexanoyl)-amino-phenoxy]-3-chloro-2-propanol | 0.043 mol, Fifteen grams | C(#N)C1=C(OCC(CCl)O)C=CC(=C1N)C(C(CCCC)CC)=O | C18H25ClN2O3
reactant | isopropylamine | 0.17 mol, 14.4 ml | C(C)(C)N | C3H9N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-[2-Cyano-4-(2-ethylhexanoyl)-amino-phenoxy]-3-isopropylamino-2-propanol hydrochloride | Cl.C(#N)C1=C(OCC(CNC(C)C)O)C=CC(=C1N)C(C(CCCC)CC)=O | InChI=1S/C21H33N3O3.ClH/c1-5-7-8-15(6-2)21(26)17-9-10-19(18(11-22)20(17)23)27-13-16(25)12-24-14(3)4;/h9-10,14-16,24-25H,5-8,12-13,23H2,1-4H3;1H
